US04360525
(d) 10-(1-Methyl-piperidin-4-yl)-dibenz[b,f][1,4]oxazepin-11(10H)-one
A mixture of 5.3 g 2-fluoro-N-(2-hydroxyphenyl)-N-(1-methyl-piperidin-4-yl)benzamide, 1.1 g of a 55% sodium hydride/oil dispersion and 80 ml dimethylformamide are stirred at 80° for 18 hours. The reaction mixture is worked up as in Example 1(b) to give the heading compound, m.p. 173°-174.5°.

reactant | 2-fluoro-N-(2-hydroxyphenyl)-N-(1-methyl-piperidin-4-yl)benzamide | 5.3 g | FC1=C(C(=O)N(C2CCN(CC2)C)C2=C(C=CC=C2)O)C=CC=C1 | C19H21FN2O2
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 10-(1-Methyl-piperidin-4-yl)-dibenz[b,f][1,4]oxazepin-11(10H)-one | CN1CCC(CC1)N1C2=C(OC3=C(C1=O)C=CC=C3)C=CC=C2 | C19H20N2O2
